US08629168B2
4-{7-[4-(1,1-Dioxo-thiomorpholin-4-ylmethyl)-3,5-difluoro-phenyl]-benzooxazol-2-ylamino}-2,N,N-trimethyl-benzamide
A solution of 0.1 g (0.267 mmol) 4-(7-bromo-benzooxazol-2-ylamino)-2,N,N-trimethyl-benzamide, 0.114 g (0.294 mmol) 4-[2,6-difluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-thiomorpholine 1,1-dioxid and 174 mg K3PO4 are dissolved in 5 ml 1,2-dimethoxy-ethane, water (0.1 ml) is added and a stream of argon is bubbled through the mixture in order to exclude oxygen from the reaction mixture. Tetrakis (triphenylphosphine) palladium (0.0095 g, 0.0082 mmol) is added and the reaction mixture is stirred at 100° C. for 8 h. After that the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, EtOAc), followed by recrystallisation diethylether/methanol to afford the title compound as white crystals. Rt=2.13 min (Waters Symmetry C8, 2.1×50 mm, detection 210-250 nM, 5% to 100% CH3CN in H2O in 2 min+0.05% TFA, flow rate 1.0 ml/min); MS: 555 (M+1)+.

reactant | 4-(7-bromo-benzooxazol-2-ylamino)-2,N,N-trimethyl-benzamide | 0.267 mmol, 0.1 g | BrC1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=O)N(C)C)C=C2)C | C17H16BrN3O2
reactant | 4-[2,6-difluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-thiomorpholine 1,1-dioxid | 0.294 mmol, 0.114 g | FC1=C(CN2CCS(CC2)(=O)=O)C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F | C17H24BF2NO4S
reactant | K3PO4 | 174 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.1 ml | O | H2O
solvent | 1,2-dimethoxy-ethane | 5 ml | COCCOC | C4H10O2
catalyst | Tetrakis (triphenylphosphine) palladium | 0.0082 mmol, 0.0095 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-{7-[4-(1,1-Dioxo-thiomorpholin-4-ylmethyl)-3,5-difluoro-phenyl]-benzooxazol-2-ylamino}-2,N,N-trimethyl-benzamide | O=S1(CCN(CC1)CC1=C(C=C(C=C1F)C1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=O)N(C)C)C=C2)C)F)=O | C28H28F2N4O4S
